US07951801B2
(S)-6,6-Dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethyl)-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide
The desired compound was prepared according to Method F from [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid and pyrrolidine in 82% yield. 1H-NMR (300 MHz, DMSO-d6): δ 1.21 (s,3H), 1.29 (s,3H), 1.75-1.92 (m,4H), 2.46 (d,1H), 2.77 (d,1H), 3.35-3.68 (m,7H), 3.94 (m,2H), 8.08 (s,1H), 8.19 (d,1H), 8.23 (s,1H), 8.41 (d,1H), 9.05 (s,1H), 10.71 (s,1H), 11.51 (s,1H). Retention Time (LC, method: ammonium acetate standard): 1.75 min. MS (M+H+): 470.3.

reactant | [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@@H]1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | (S)-6,6-Dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethyl)-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 82% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CC(OC1)(C)C)CC(N1CCCC1)=O | C24H28ClN5O3
